US06444709B1
3-Methyl-5-(3,5,5,8,8-pentamethyl-5,6,7,8-tetrahydronaphthalen-2-ylsulphonyl)pent-2-en-4-ynoic Acid
Sodium hydroxide (400 mg, 10 mmol) is added to a solution of ethyl 3-methyl-5-(3,5,5,8,8-pentamethyl-5,6,7,8-tetrahydronaphthalen-2-ylsulphonyl)pent-2-en-4-ynoate (400 mg, 1.6 mmol) in 15 ml of THF. The medium is refluxed for 4 h. It is then poured into an ethyl ether/water mixture, acidified to pH 1 with concentrated hydrochloric acid solution and extracted with ethyl ether. After separation of the phases by settling, the organic phase is washed twice with water, dried over anhydrous magnesium sulphate and concentrated on a rotary evaporator under vacuum at 40° C. The residue is then triturated from heptane, after which it is filtered.

reactant | Sodium hydroxide | 10 mmol, 400 mg | [OH-].[Na+]
reactant | ethyl 3-methyl-5-(3,5,5,8,8-pentamethyl-5,6,7,8-tetrahydronaphthalen-2-ylsulphonyl)pent-2-en-4-ynoate | 1.6 mmol, 400 mg | CC(=CC(=O)OCC)C#CS(=O)(=O)C1=CC=2C(CCC(C2C=C1C)(C)C)(C)C | C23H30O4S
reactant | ethyl ether water | C(C)OCC.O
reactant | hydrochloric acid | Cl | ClH
solvent | THF | 15 ml | C1CCOC1 | C4H8O
product | 3-Methyl-5-(3,5,5,8,8-pentamethyl-5,6,7,8-tetrahydronaphthalen-2-ylsulphonyl)pent-2-en-4-ynoic Acid | CC(=CC(=O)O)C#CS(=O)(=O)C1=CC=2C(CCC(C2C=C1C)(C)C)(C)C | C21H26O4S
